US04639448
A mixture of benzhydryl 7-amino-3-[2-(2-pyridyl)-vinyl]-3-cephem-4-carboxylate (trans isomer) (25 g) and N-(trimethylsilyl)acetamide (4.2 g) in ethyl acetate (20 ml) and tetrahydrofuran (10 ml) was stirred at ambient temperature for 20 minutes to give a clear solution. To the solution was added 2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)-acetylchloride (syn isomer) (1.4 g) at -15°~-20° C. and stirred at the same temperature for 30 minutes. Water (20 ml) was added to the resulting solution, and the separated organic layer was washed with 5% aqueous sodium bicarbonate and brine, dried over magnesium sulfate and evaporated to give benzhydryl 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)-acetamido]-3-[2-(2-pyridyl)vinyl]-3-cephem-4-carboxylate (syn isomer) (trans isomer) (3.6 g).

reactant | benzhydryl 7-amino-3-[2-(2-pyridyl)-vinyl]-3-cephem-4-carboxylate | 25 g | NC1[C@@H]2N(C(=C(CS2)C=CC2=NC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H23N3O3S
reactant | N-(trimethylsilyl)acetamide | 4.2 g | C[Si](NC(C)=O)(C)C | C5H13NOSi
reactant | 2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)-acetylchloride | 1.4 g | C(C)ON=C(C(=O)Cl)C1=NSC(=N1)N | C6H7ClN4O2S
reactant | Water | 20 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | benzhydryl 7-[2-ethoxyimino-2-(5-amino-1,2,4-thiadiazol-3-yl)-acetamido]-3-[2-(2-pyridyl)vinyl]-3-cephem-4-carboxylate | 3.6 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=CC2=NC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C1=NSC(=N1)N | C33H29N7O5S2
